US07560558B2
(4,5-Dimethylfuran-2-yl)-(4,5-dimethylthiazol-2-yl)methanone (910 mg), methanol (7 ml), and 8 ml of a 28% aqueous ammonia solution were placed in a sealed tube, and the mixture was stirred at 160° C. overnight. The reaction solution was cooled to room temperature, the solvent was then removed by distillation under the reduced pressure, and the residue was purified by column chromatography using hexane-ethyl acetate to give 5,6-dimethyl-2-(4,5-dimethylthiazol-2-yl)pyridin-3-ol (782 mg, yield 86%).

reactant | (4,5-Dimethylfuran-2-yl)-(4,5-dimethylthiazol-2-yl)methanone | 910 mg | CC=1C=C(OC1C)C(=O)C=1SC(=C(N1)C)C | C12H13NO2S
reactant | ammonia | N | H3N
solvent | methanol | 7 ml | CO | CH4O
product | 5,6-dimethyl-2-(4,5-dimethylthiazol-2-yl)pyridin-3-ol | 782 mg, yield 86% | CC=1C=C(C(=NC1C)C=1SC(=C(N1)C)C)O | C12H14N2OS
